US06884882B1
1-3) Preparation of 2′-deoxy-5-ethynyl-5′-O-(4-methoxytrityl)-uridine
1.40 g of 2′-deoxy-5-[(trimethylsilyl)ethynyl]-5′-O-(4-methoxytrityl)-uridine (2.35 mmole) prepared in 1-2) was dissolved in 20 ml of THF, and then 0.95 ml TBAF (1.4 eq) was added thereto. After 7 hours, the reaction was terminated, THF was removed using a rotary evaporator, and the resulting residue was subjected to column chromatography (silica gel 60, 230-400 meshes, Merck) to obtain the title compound as a solid. The chromatography was conducted using a mixture of CH2Cl2 and methanol as an eluting solution whose mix ratio was gradually varied from 100:1 to 50:1 (v/v).

reactant | 2′-deoxy-5-[(trimethylsilyl)ethynyl]-5′-O-(4-methoxytrityl)-uridine | 2.35 mmole, 1.40 g | C[Si](C)(C)C#CC=1C(NC(N([C@H]2C[C@H](O)[C@@H](COC(C3=CC=C(C=C3)OC)(C3=CC=CC=C3)C3=CC=CC=C3)O2)C1)=O)=O | C34H36N2O6Si
reactant | TBAF | 0.95 ml, 1.4 eq | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2′-deoxy-5-ethynyl-5′-O-(4-methoxytrityl)-uridine | C(#C)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](COC(C3=CC=C(C=C3)OC)(C3=CC=CC=C3)C3=CC=CC=C3)O2)C1)=O)=O | C31H28N2O6
